US06413991B1
(S)-4-[2-Hydroxy-3-([4-(2-pyridyloxy)phenyl]-2-methylpropylamino)propoxy]carbazole
Titled compound was prepared substantially in accordance with Example 118 from (S)-4-(oxiranylmethoxy)-9H-carbazole (0.375 g) and 2-(4-(2-amino-2-methylpropyl)phenoxy)pyridine(0.496 g) to yield product (0.26 g) after purification. NMR.

reactant | (S)-4-(oxiranylmethoxy)-9H-carbazole | 0.375 g | O1[C@@H](C1)COC1=CC=CC=2NC3=CC=CC=C3C12 | C15H13NO2
reactant | 2-(4-(2-amino-2-methylpropyl)phenoxy)pyridine | 0.496 g | NC(CC1=CC=C(OC2=NC=CC=C2)C=C1)(C)C | C15H18N2O
product | (S)-4-[2-Hydroxy-3-([4-(2-pyridyloxy)phenyl]-2-methylpropylamino)propoxy]carbazole | O[C@H](COC1=CC=CC=2NC3=CC=CC=C3C12)CN(CC(C)C)C1=CC=C(C=C1)OC1=NC=CC=C1 | C30H31N3O3
